US05578244
Preparation of trans-4-(4-n-propyl-4-silacyclohexyl)-2-fluoro--4'-(2-(4-n-propylphenyl)ethyl)biphenyl
An 22-ml tetrahydrofuran solution of 1.05M 4-(2-(4-n-propylphenyl)ethyl)phenyl magnesium bromide was dripped into a mixture of 5.44 g of trans-4-(4-chloro-3-fluorophenyl) -1-n-propyl-1-silacyclohexane, 80 mg of 1,3-bis(diphenylphosphino)propane nickel (II) chloride and 30 ml of tetrahydrofuran, and the resulting mixture was stirred for 20 hours at 50° C. After a conventional after treatment, the reaction mixture was purified by means of silica-gel chromatography to obtain 6.42 g (yield 70%) of the target product.

reactant | 4-(2-(4-n-propylphenyl)ethyl)phenyl magnesium bromide | 1.05M | C(CC)C1=CC=C(C=C1)CCC1=CC=C(C=C1)[Mg]Br
reactant | trans-4-(4-chloro-3-fluorophenyl) -1-n-propyl-1-silacyclohexane | 5.44 g | ClC1=C(C=C(C=C1)[C@@H]1CC[Si@H](CC1)CCC)F | C14H20ClFSi
catalyst | 1,3-bis(diphenylphosphino)propane nickel (II) chloride | 80 mg | [Ni](Cl)Cl.C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 22-ml | O1CCCC1 | C4H8O
product | trans-4-(4-n-propyl-4-silacyclohexyl)-2-fluoro--4'-(2-(4-n-propylphenyl)ethyl)biphenyl | 6.42 g, yield 70% | C(CC)[Si@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)C1=CC=C(C=C1)CCC1=CC=C(C=C1)CCC)F | C31H39FSi
